US05369110
2-(S)-methanesulfonylamino-3-methyl-butanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide
Analogously to Example 20 and using 2.2 g (5 mmol) of 2-(S)-methanesulfonylamino-3-methylbutanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)amide and 2.5 g (7.5 mmol) of tributyltin azide, the title compound is obtained in the form of a light-coloured foam that has an Rf value of 0.45 [toluene/isopropanol/glacial acetic acid (170:30:2)].

reactant | 2-(S)-methanesulfonylamino-3-methylbutanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)amide | 5 mmol, 2.2 g | C(CCC)N(C([C@H](C(C)C)NS(=O)(=O)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H31N3O3S
reactant | tributyltin azide | 7.5 mmol, 2.5 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 2-(S)-methanesulfonylamino-3-methyl-butanoic acid N-butyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide | C(CCC)N(C([C@H](C(C)C)NS(=O)(=O)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H32N6O3S
